US09399639B2
N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)-N-(propylsulfonyl)benzamide
To a suspension of N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)-propane-1-sulfonamide (0.2 g, 0.41 mmol) in dioxane (15 mL) were added benzoyl chloride (57 mg, 0.41 mmol) and triethylamine (0.14 g, 1.38 mmol). The reaction was stirred at rt for 1 h, then concentrated in vacuo. The residue was purified by a silica gel column chromatography (hexane/EtOAc (v/v)=4/1) to afford the title compound as a white solid (0.14 g, 55%). The title compound was characterized by LC-MS and 1H NMR as shown below:

reactant | N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)-propane-1-sulfonamide | 0.41 mmol, 0.2 g | ClC1=CC=C(C=C1)C=1C=C2C(=NC1)NC=C2C(=O)C=2C(=C(C=CC2F)NS(=O)(=O)CCC)F | C23H18ClF2N3O3S
reactant | benzoyl chloride | 0.41 mmol, 57 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethylamine | 1.38 mmol, 0.14 g | C(C)N(CC)CC | C6H15N
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)-N-(propylsulfonyl)benzamide | 0.14 g, 55% | ClC1=CC=C(C=C1)C=1C=C2C(=NC1)NC=C2C(=O)C=2C(=C(C=CC2F)N(C(C2=CC=CC=C2)=O)S(=O)(=O)CCC)F | C30H22ClF2N3O4S
